US08809335B2
4-ethoxy-3-iodo-1-trityl-1H-pyrazolo[3,4-d]pyrimidine
To a solution of iodo mixture-4-ethoxy-3-iodo-1H-pyrazolo[3,4-d]pyrimidine (1.40 g, 4.823 mmol) in DMF (20 mL) cooled to 0° C., was added NaH (212.2 mg, 5.31 mmol, 60% dispersion in oil). The reaction mixture was stirred at this temperature for 30 minutes and then trityl chloride (1.41 g, 5.06 mmol) was added in one portion. The reaction mixture was allowed to warm to ambient temperature over 18 hours. After this time, the reaction mixture was concentrated in vacuo, diluted with DCM and water. The organic layer was separated and washed with saturated aqueous brine, dried (Na2SO4), filtered and concentrated in vacuo. The crude mixture was purified by column chromatography (ISCO Companion™, 120 g column, eluting with DCM) to give the sub title compound as a mixture of regioisomers (592 mg, 23% Yield). 1H NMR (400 MHz, DMSO) δ 8.27 (1H, s), 7.34-7.12 (15H, m), 4.55 (3H, q) and 1.40 (2H, t).

reactant | 4-ethoxy-3-iodo-1H-pyrazolo[3,4-d]pyrimidine | 4.823 mmol, 1.40 g | C(C)OC1=C2C(=NC=N1)NN=C2I | C7H7IN4O
reactant | NaH | 5.31 mmol, 212.2 mg | [H-].[Na+]
reactant | trityl chloride | 5.06 mmol, 1.41 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-ethoxy-3-iodo-1-trityl-1H-pyrazolo[3,4-d]pyrimidine | 23% Yield | C(C)OC1=C2C(=NC=N1)N(N=C2I)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H21IN4O
